US08426420B2
iii) (S)-5-[4-(3-Chloro-benzoyl)-piperidin-1-yl]-4-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-5-oxo-pentanoic acid
To a solution of 150 mg (S)-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanedioic acid 5-tert-butyl ester in 7 ml DMF were added 62 μl DIPEA, 95 mg HATU and 56 mg 4-(3-chlorobenzoyl)-piperidine. After stirring for 12 h saturated NaHCO3 solution was added and the mixture loaded on a Chem Elut® cartridge, the crude product being eluted with dichloromethane. The solution was concentrated to a volume of 1 ml and stirred in the presence of 100 μl TFA. After stirring for 4 h the solvents were removed under reduced pressure and the residue purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were lyophilized to yield the pure product. Yield: 135 mg MS (ES+): m/e=747.

reactant | (S)-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanedioic acid 5-tert-butyl ester | 150 mg | C(C)(C)(C)OC(CC[C@@H](C(=O)O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C30H39N5O8
reactant | DIPEA | 62 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 95 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-(3-chlorobenzoyl)-piperidine | 56 mg | ClC=1C=C(C(=O)C2CCNCC2)C=CC1 | C12H14ClNO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | (S)-5-[4-(3-Chloro-benzoyl)-piperidin-1-yl]-4-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-5-oxo-pentanoic acid | ClC=1C=C(C(=O)C2CCN(CC2)C([C@H](CCC(=O)O)NC(=O)C2=NN(C(=C2)OCC(=O)N2[C@@H](CCC2)C(NC2CCC2)=O)C2=CC=CC=C2)=O)C=CC1 | C38H43ClN6O8
